US07915281B2
An aqueous solution (125 mL) of sodium dithionate (38.0 g, 218 mmol) was added to a solution of 2-chloro-3-nitro-N-pent-4-ynylquinolin-4-amine (12.64 g, 43.63 mmol) in ethanol (15 mL) and acetonitrile (130 mL). A fine white precipitate formed within seconds. After 2.5 hours, the volatiles were removed under reduced pressure leaving a yellow aqueous mixture that was diluted with water (1 L) and washed with dichloromethane (250 mL×3). The organic layers were combined, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to yield 2-chloro-N4-pent-4-ynylquinoline-3,4-diamine as an amber oil (8.10 g) that was used without further purification.

reactant | sodium dithionate | 218 mmol, 125 mL, 38.0 g | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2-chloro-3-nitro-N-pent-4-ynylquinolin-4-amine | 43.63 mmol, 12.64 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCCCC#C | C14H12ClN3O2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | acetonitrile | 130 mL | C(C)#N | C2H3N
solvent | water | 1 L | O | H2O
product | 2-chloro-N4-pent-4-ynylquinoline-3,4-diamine | 8.10 g | ClC1=NC2=CC=CC=C2C(=C1N)NCCCC#C | C14H14ClN3
